US05786386
In a 500-ml autoclave were placed 2-imidazolecarboxaldehyde (6.9 g (70 mmol), product of Aldrich), n-laurylamine (12.8 g (69 mmol)), 5% Pd-C (2 g), and ethyl acetate (200 ml). The contents of the flask were stirred for 24 hours at room temperature under hydrogen (20 kg/cm2). The catalyst was removed, and the solvent was concentrated. Purification via silica gel column chromatography (n-hexane:ethyl acetate=2:1) afforded 11.0 g of N-lauryl-2-imidazole methyl amine as white crystals (yield: 60%).

reactant | 2-imidazolecarboxaldehyde | 70 mmol, 6.9 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | n-laurylamine | 69 mmol, 12.8 g | CCCCCCCCCCCCN | C12H27N
catalyst | Pd-C | 2 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-lauryl-2-imidazole methyl amine | 11.0 g, yield: 60% | C(CCCCCCCCCCC)NCC=1NC=CN1 | C16H31N3
